US08378104B2
Step B: 5,7-dichlorothieno[2,3-c]pyridine
A mixture of 7-chlorothieno[2,3-c]pyridine 6-oxide (2.58 g, 13.8 mmol) and POCl3 (20 mL) was stirred at 115° C. under N2 for 7 h. After that time, the excess POCl3 was removed in vacuo, and the residue was poured into ice/water (100 mL), basified by addition of 8 N NaOH followed by saturated NaHCO3, and extracted with DCM (3×50 mL). The combined extracts were washed with saturated NaHCO3 (50 mL), water (50 mL) and brine (50 mL), dried over MgSO4, and concentrated in vacuo. The residue was purified by ISCO chromatography (0 to 40% EtOAc:heptane) to afford 1.97 g (70%) of the title compound as a beige solid. 1H NMR (400 MHz, DMSO-d6): δ 7.82 (d, J=5.6 Hz, 1 H), 7.68 (s, 1 H), 7.37 (d, J=5.6 Hz, 1 H); MS (ESI): 203.94, 205.94 [M+H]+; HPLC tR=1.55 min (TOF: polar—3 min).

reactant | 7-chlorothieno[2,3-c]pyridine 6-oxide | 13.8 mmol, 2.58 g | ClC=1[N+](=CC=C2C1SC=C2)[O-] | C7H4ClNOS
reactant | POCl3 | 20 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 5,7-dichlorothieno[2,3-c]pyridine | 1.97 g, 70% | ClC=1C=C2C(=C(N1)Cl)SC=C2 | C7H3Cl2NS
